US09359329B2
To a mixture of 1 g (6.36 mmol) of methyl 4-oxopiperidine-3-carboxylate hydrochloride and 2.2 mL of Et3N in 12 mL of DCM is added dropwise at room temperature 0.5 mL of mesyl chloride. The reaction medium is stirred for 1 hour and then taken up in 50 mL of EtOAc, washed with 20 mL of water and 20 mL of brine and then dried over Na2SO4, filtered and concentrated under reduced pressure. 0.35 g of methyl 1-(methylsulfonyl)-4-oxopiperidine-3-carboxylate is obtained.

reactant | methyl 4-oxopiperidine-3-carboxylate hydrochloride | 6.36 mmol, 1 g | Cl.O=C1C(CNCC1)C(=O)OC
reactant | Et3N | 2.2 mL | CCN(CC)CC | C6H15N
reactant | mesyl chloride | 0.5 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | methyl 1-(methylsulfonyl)-4-oxopiperidine-3-carboxylate | 0.35 g, Yield=23% | CS(=O)(=O)N1CC(C(CC1)=O)C(=O)OC | C8H13NO5S
